US05399703
Step 4 2-[3-(2-Nitrophenoxy)phenoxy]propionic acid
In 100 ml of ethanol was dissolved 6.7 g of ethyl 2-[3-(2-nitrophenoxy)phenoxy]propionate followed by addition of a solution of 1.6 g of sodium hydroxide in 10 ml of water, and the mixture was stirred at room temperature for 1 hour. The ethanol was then distilled off and the residue was diluted with water, acidified with hydrochloric acid and extracted with chloroform. The chloroform layer was dried and concentrated to give 6.2 g of the title compound as a light yellow oil.

reactant | ethyl 2-[3-(2-nitrophenoxy)phenoxy]propionate | 6.7 g | [N+](=O)([O-])C1=C(OC=2C=C(OC(C(=O)OCC)C)C=CC2)C=CC=C1 | C17H17NO6
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-[3-(2-Nitrophenoxy)phenoxy]propionic acid | 6.2 g | [N+](=O)([O-])C1=C(OC=2C=C(OC(C(=O)O)C)C=CC2)C=CC=C1 | C15H13NO6
